### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Coloring): add lemmas about coloring and maps

### PR DESCRIPTION
**Pull request by IvanRenison**
---
Idea from this Zulip thread: [graph theory>Second Order Monadic Logic for Graph](https://leanprover.zulipchat.com/#narrow/channel/252551-graph-theory/topic/Second.20Order.20Monadic.20Logic.20for.20Graph/with/583013775)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 1]
```diff
@@ -599,10 +599,26 @@ theorem colorable_of_cliqueFree (f : ∀ (i : ι), V i)
...
 end completeMultipartiteGraph
 
+variable {W : Type*} {H : SimpleGraph W}
+
 /-- If `H` is not `n`-colorable and `G` is `n`-colorable, then `G` is `H.Free`. -/
-theorem free_of_colorable {W : Type*} {H : SimpleGraph W}
-    (nhc : ¬H.Colorable n) (hc : G.Colorable n) : H.Free G := by
+theorem free_of_colorable (nhc : ¬H.Colorable n) (hc : G.Colorable n) : H.Free G := by
   contrapose! nhc with hc'
   exact ⟨hc.some.comp hc'.some.toHom⟩
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: I guess this has a slightly nicer proof if you do it after `Hom.colorable`?

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 2]
```diff
@@ -599,10 +599,26 @@ theorem colorable_of_cliqueFree (f : ∀ (i : ι), V i)
...
 
+/-! ### Maps -/
+
+def Hom.coloring (f : G →g H) {α} (C : H.Coloring α) : G.Coloring α where
+  toFun v := C (f.toFun v)
+  map_rel' hadj := C.valid (f.map_adj hadj)
+
+lemma Hom.colorable (f : G →g H) {n : ℕ} (hc : H.Colorable n) : G.Colorable n :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: This is [`Colorable.of_hom`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.html#SimpleGraph.Colorable.of_hom)

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 3]
```diff
@@ -599,10 +599,26 @@ theorem colorable_of_cliqueFree (f : ∀ (i : ι), V i)
...
+  ⟨f.coloring hc.some⟩
+
+lemma Hom.chromaticNumber_le (f : G →g H) : G.chromaticNumber ≤ H.chromaticNumber :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: This is [`chromaticNumber_mono_of_hom`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.html#SimpleGraph.chromaticNumber_mono_of_hom), but namespacing it sounds like a good idea

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 4]
```diff
@@ -127,6 +127,11 @@ theorem Coloring.isIndepSet_colorClass (c : α) : G.IsIndepSet <| C.colorClass c
 theorem Coloring.color_classes_independent (c : α) : IsAntichain G.Adj (C.colorClass c) :=
   C.isIndepSet_colorClass c
 
+def Coloring.of_hom {V' : Type*} {G' : SimpleGraph V'} {α : Type*}
+    (C : G'.Coloring α) (f : G →g G') : G.Coloring α where
+  toFun v := C (f.toFun v)
+  map_rel' hadj := C.valid (f.map_adj hadj)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]:
```suggestion
def Coloring.of_hom {V' : Type*} {G' : SimpleGraph V'} {α : Type*} (C : G'.Coloring α)
    (f : G →g G') : G.Coloring α :=
  C.comp f
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 5]
```diff
@@ -599,10 +607,16 @@ theorem colorable_of_cliqueFree (f : ∀ (i : ι), V i)
...
-theorem free_of_colorable {W : Type*} {H : SimpleGraph W}
-    (nhc : ¬H.Colorable n) (hc : G.Colorable n) : H.Free G := by
+theorem free_of_colorable (nhc : ¬H.Colorable n) (hc : G.Colorable n) : H.Free G := by
   contrapose! nhc with hc'
-  exact ⟨hc.some.comp hc'.some.toHom⟩
+  exact hc.of_hom hc'.some.toHom
+
+/-! ### Isomorphisms -/
+
+lemma Iso.chromaticNumber_eq (f : G ≃g H) : G.chromaticNumber = H.chromaticNumber :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: Could you also do `G.Colorable n ↔ H.Colorable n` and `G.Coloring α ≃ H.Coloring α`?
The first one should be easy with `Colorable.of_hom`, though idk how hard the second one is.
Edit: actually it'll be easy since composition is associative, so composing with both sides of the isomorphism will get you the identity

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: The second one should be easy provided the api for graph homs and isos is good enough (and if it's not easy then we know something there needs to be added!)

**Comment by b-mehta** [comment]
bors d-

Since Snir's suggestions are wise

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean (hunk 5 above)
Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: I think I will have to add some things about homs, isos and Equiv

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 6]
```diff
@@ -127,6 +127,11 @@ theorem Coloring.isIndepSet_colorClass (c : α) : G.IsIndepSet <| C.colorClass c
 theorem Coloring.color_classes_independent (c : α) : IsAntichain G.Adj (C.colorClass c) :=
   C.isIndepSet_colorClass c
 
+/-- Coloring induced from a homomorphism to a colored graph. -/
+def Coloring.of_hom {V' : Type*} {G' : SimpleGraph V'} {α : Type*} (C : G'.Coloring α)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]:
```suggestion
def Coloring.ofHom {V' : Type*} {G' : SimpleGraph V'} (C : G'.Coloring α)
```
since it's a `def` and not a `theorem`

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean (hunk 5 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: Wow I can't believe we don't have associativity of `Hom`/`RelHom`!
This is what I got:

```lean

theorem RelHom.comp_assoc {α β γ δ : Type*} {rα : α → α → Prop} {rβ : β → β → Prop}
    {rγ : γ → γ → Prop} {rδ : δ → δ → Prop} (fγδ : rγ →r rδ) (fβγ : rβ →r rγ) (fαβ : rα →r rβ) :
    (fγδ.comp fβγ).comp fαβ = fγδ.comp (fβγ.comp fαβ) :=
  RelHom.ext fun _ ↦ rfl

@[simp]
theorem RelHom.comp_id {α β : Type*} {r : α → α → Prop} {s : β → β → Prop} (f : r →r s) :
    f.comp (.id r) = f :=
  RelHom.ext fun _ ↦ rfl

@[simp]
theorem RelHom.id_comp {α β : Type*} {r : α → α → Prop} {s : β → β → Prop} (f : r →r s) :
    RelHom.comp (.id s) f = f :=
  RelHom.ext fun _ ↦ rfl

def Iso.coloringEquiv {V' : Type*} {H : SimpleGraph V'} (f : G ≃g H) :
    G.Coloring α ≃ H.Coloring α where
  toFun C := C.ofHom f.symm
  invFun C := C.ofHom f
  -- perhaps `ofHom` should be an `abbrev`, then we can remove it from these
  left_inv C := by simp [Coloring.ofHom, RelHom.comp_assoc]
  right_inv C := by simp [Coloring.ofHom, RelHom.comp_assoc]
```

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: > Wow I can't believe we don't have associativity of `Hom`/`RelHom`!

Agreed!

Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: And we also not have congr lemmas:
```lean4
variable {V W X Y : Type*} (G : SimpleGraph V) (G' : SimpleGraph W) {G'' : SimpleGraph X} {G''' : SimpleGraph Y} (f' : G'' ≃g G''')

def homCongr : G →g G'' ≃ G' →g G''' := RelIso.relHomCongr f f'

def embeddingCongr : G ↪g G'' ≃ G' ↪g G''' := sorry

def isoCongr : G ≃g G'' ≃ G' ≃g G''' := sorry

def Iso.coloring_equiv (f : G ≃g H) : G.Coloring α ≃ H.Coloring α := homCongr f refl
```

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 7]
```diff
@@ -621,7 +621,10 @@ theorem toEmbedding_completeGraph {α β : Type*} (f : α ≃ β) :
     (Iso.completeGraph f).toEmbedding = Embedding.completeGraph f.toEmbedding :=
   rfl
 
-variable {G'' : SimpleGraph X}
+variable {G'' : SimpleGraph X} {G''' : SimpleGraph Y}
+
+/-- Equivalence of homomorphisms induced by isomorphisms of graphs. -/
+def homCongr (f' : G'' ≃g G''') : G →g G'' ≃ G' →g G''' := RelIso.relHomCongr f f'
```
Comment (IvanRenison) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]: I'm not sure if having this is a good idea, or if we should use the `RelIso` version directly. What do you think?

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: I think having this is reasonable, because it'll mean that `let h := homCongr f g` has the right type automatically

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 8]
```diff
@@ -127,6 +127,11 @@ theorem Coloring.isIndepSet_colorClass (c : α) : G.IsIndepSet <| C.colorClass c
 theorem Coloring.color_classes_independent (c : α) : IsAntichain G.Adj (C.colorClass c) :=
   C.isIndepSet_colorClass c
 
+/-- Coloring induced from a homomorphism to a colored graph. -/
+def Coloring.ofHom {V' : Type*} {G' : SimpleGraph V'} {α : Type*} (C : G'.Coloring α)
+    (f : G →g G') : G.Coloring α :=
+  C.comp f
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: This feels like an unnecessary layer of duplication and indirection.
1. I would expect `Coloring.ofFoo` to be a constructor for `Coloring`, in particular not taking in another `Coloring`.
2. This looks like a `comap` operation.
3. Since `Coloring` is an `abbrev`, this should be an `abbrev` too

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 9]
```diff
@@ -280,9 +285,9 @@ noncomputable def Colorable.toColoring [Fintype α] {n : ℕ} (hc : G.Colorable
   rw [← Fintype.card_fin n] at hn
   exact G.recolorOfCardLE hn hc.some
 
-theorem Colorable.of_hom {V' : Type*} {G' : SimpleGraph V'} (f : G →g G') {n : ℕ}
-    (h : G'.Colorable n) : G.Colorable n :=
-  ⟨(h.toColoring (by simp)).comp f⟩
+theorem Colorable.of_hom {V' : Type*} {G' : SimpleGraph V'} {n : ℕ}
+    (h : G'.Colorable n) (f : G →g G') : G.Colorable n :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: Why swapping the argument like this? You are going against the usual pattern here

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 10]
```diff
@@ -402,9 +407,12 @@ theorem chromaticNumber_mono (G' : SimpleGraph V)
     (h : G ≤ G') : G.chromaticNumber ≤ G'.chromaticNumber :=
   chromaticNumber_le_of_forall_imp fun _ => Colorable.mono_left h
 
-theorem chromaticNumber_mono_of_hom {V' : Type*} {G' : SimpleGraph V'}
-    (f : G →g G') : G.chromaticNumber ≤ G'.chromaticNumber :=
-  chromaticNumber_le_of_forall_imp fun _ => Colorable.of_hom f
+theorem Hom.chromaticNumber_le {V' : Type*} {G' : SimpleGraph V'} (f : G →g G') :
+    G.chromaticNumber ≤ G'.chromaticNumber :=
+  chromaticNumber_le_of_forall_imp fun _ hc => hc.of_hom f
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: I also don't see this as an improvement. You can introduce `Hom.chromaticNumber_mono` as an alias if you really want to, but it shouldn't be the only name because this isn't primarily about homs

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 11]
```diff
@@ -599,10 +607,23 @@ theorem colorable_of_cliqueFree (f : ∀ (i : ι), V i)
...
-  contrapose nhc with hc'
-  exact ⟨hc.some.comp hc'.some.toHom⟩
+theorem free_of_colorable (nhc : ¬H.Colorable n) (hc : G.Colorable n) : H.Free G := by
+  contrapose! nhc with hc'
+  exact hc.of_hom hc'.some.toHom
+
+/-! ### Isomorphisms -/
+
+/-- Equivalence of colorings induced by isomorphisms of graphs. -/
+def Iso.coloringEquiv (f : G ≃g H) : G.Coloring α ≃ H.Coloring α := homCongr f refl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]:
```suggestion
abbrev coloringCongr (f : G ≃g H) : G.Coloring α ≃ H.Coloring α := homCongr f refl
```
and why not allow changing the colors too?

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean]: This should however be an `abbrev`, to match `Hom`

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean (hunk 8 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: IMO while `Coloring` is an `abbrev`, I still prefer to view its definition as an implementation detail, so I think something of the form `(G →g G') → G'.Coloring α → G.Coloring α` should exist and isn't an unnecessary layer.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: If you really believe its definition is an implementation detail, then you should change it from an `abbrev` to a `structure`.

For the time being, having a function of the form `(G →g G') → G'.Coloring α → G.Coloring α` is perfectly fine. However, it should be an `abbrev` of a `SimpleGraph.Hom` definition if possible.

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean (hunk 10 above)
Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: I'm not sure to understand what I should do. You want me to change the name to something with out `Hom.`?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: Yes, as it was before

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]: Can you rename to `comap`?

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 12]
```diff
@@ -613,10 +618,24 @@ theorem colorable_of_cliqueFree (f : ∀ (i : ι), V i)
...
+/-! ### Isomorphisms -/
+
+/-- Equivalence of colorings induced by isomorphisms of graphs and equivalence of colors. -/
+def Iso.coloringEquiv (f : G ≃g H) (g : α ≃ β) : G.Coloring α ≃ H.Coloring β :=
+  homCongr f (Iso.completeGraph g)
+
+lemma Iso.colorable_iff (f : G ≃g H) : G.Colorable n ↔ H.Colorable n :=
+  ⟨fun hc ↦ hc.of_hom f.symm.toHom, fun hc ↦ hc.of_hom f.toHom⟩
+
+lemma Iso.chromaticNumber_eq (f : G ≃g H) : G.chromaticNumber = H.chromaticNumber :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]:
```suggestion
lemma chromaticNumber_congr (f : G ≃g H) : G.chromaticNumber = H.chromaticNumber :=
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean [hunk 13]
```diff
@@ -612,10 +617,24 @@ theorem colorable_of_cliqueFree (f : ∀ (i : ι), V i)
...
+  contrapose! nhc with hc'
+  exact hc.of_hom hc'.some.toHom
+
+/-! ### Isomorphisms -/
+
+/-- Equivalence of colorings induced by isomorphisms of graphs and equivalence of colors. -/
+def Iso.coloringEquiv (f : G ≃g H) (g : α ≃ β) : G.Coloring α ≃ H.Coloring β :=
+  homCongr f (Iso.completeGraph g)
+
+lemma Iso.colorable_iff (f : G ≃g H) : G.Colorable n ↔ H.Colorable n :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/VertexColoring.lean]:
```suggestion
def coloringCongr (f : G ≃g H) (g : α ≃ β) : G.Coloring α ≃ H.Coloring β :=
  homCongr f (Iso.completeGraph g)

lemma colorable_congr (f : G ≃g H) : G.Colorable n ↔ H.Colorable n :=
```
since they aren't mainly about the iso

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Coloring/Vertex.lean [hunk 14]
```diff
@@ -615,10 +620,23 @@ theorem colorable_of_cliqueFree (f : ∀ (i : ι), V i)
...
+  contrapose! nhc with hc'
+  exact hc.of_hom hc'.some.toHom
+
+/-! ### Isomorphisms -/
+
+/-- Equivalence of colorings induced by isomorphisms of graphs and equivalence of colors. -/
+def coloringCongr (f : G ≃g H) (g : α ≃ β) : G.Coloring α ≃ H.Coloring β :=
+  f.homCongr (Iso.completeGraph g)
+
+lemma colorable_congr (f : G ≃g H) : G.Colorable n ↔ H.Colorable n :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/Vertex.lean:636]: To follow the example of `coloringCongr`, shouldn't this accept two numbers and a `n = m` hypothesis?

Comment (vlad902) [reply Mathlib/Combinatorics/SimpleGraph/Coloring/Vertex.lean:636]: I don't think that makes sense here. If you have `h : n = m`, you could just easily rewrite the conclusion/hypothesis of this lemma to get the result you would with the lemma you're proposing (while the equiv above really is necessary to state the definition.)

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
